US04760179
N-tert-octyl-[3-(N,N-diethylaminoxy)propionamide]
The procedure of Example I is repeated using diethylhydroxylamine, potassium-tert-butoxide and N-tert-octylacrylamide in tetrahydrofuran to afford the title compound.

reactant | diethylhydroxylamine | C(C)N(O)CC | C4H11NO
reactant | potassium-tert-butoxide | CC(C)([O-])C.[K+]
reactant | N-tert-octylacrylamide | C(C)(C)(CC(C)(C)C)NC(C=C)=O | C11H21NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-tert-octyl-[3-(N,N-diethylaminoxy)propionamide] | C(C)(C)(CC(C)(C)C)NC(CCON(CC)CC)=O | C15H32N2O2
